US04711888
A mixture of 3-acetoxy-5-methyl-2,4-hexanedione (5 g, 27 mmol) and guanidine acetate (6.4 g, 54 mmol) in 100 ml dimethylformamide (DMF) was heated at 100° C. for 3 hours. After cooling, the concentrated reaction was filtered through a pad of silica gel using an eluent consisting of equal volume parts of hexane and ethylacetate. The filtrate was concentrated and the residue was treated with excess acetic anhydride in the presence of triethylamine. The reaction mixture was concentrated and the residue was crystallized from boiling hexane to yield 1.7 g (31%) 5-acetoxy-2-amino4-isopropyl-6-methylpyrimidine, m.p. 141°-142° C.

reactant | 3-acetoxy-5-methyl-2,4-hexanedione | 27 mmol, 5 g | C(C)(=O)OC(C(C)=O)C(C(C)C)=O | C9H14O4
reactant | guanidine acetate | 54 mmol, 6.4 g | C(C)(=O)O.NC(=N)N
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 5-acetoxy-2-amino4-isopropyl-6-methylpyrimidine | 1.7 g, 31% | C(C)(=O)OC=1C(=NC(=NC1C)N)C(C)C | C10H15N3O2
